US07482484B2
Step a: 3-hex-1-ynyl-4-methoxybenzaldehyde
A mixture of 3-iodo-4-methoxybenzaldehyde (5.2 g, 20 mmol), tetrakis(triphenylphosphine)palladium (0.29 g), Cul (0.38 g, 2 mmol) and triethylamine (5 ml) in THF (25 ml) is cooled to +10° C., and 1-hexyne (3.5 ml, 30.5 mmol) is then added. The cooling bath is removed, and the temperature of the reaction mixture rises slowly to +30° C. before decreasing slowly. 3 hours after the end of the addition, the crude reaction product is concentrated to dryness, and the residue obtained is purified by flash chromatography on silica (15/85 ethyl acetate/heptane). 4.1 g (yield: 95%) of the expected product are obtained.

reactant | 3-iodo-4-methoxybenzaldehyde | 20 mmol, 5.2 g | IC=1C=C(C=O)C=CC1OC | C8H7IO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hexyne | 30.5 mmol, 3.5 ml | C#CCCCC | C6H10
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-hex-1-ynyl-4-methoxybenzaldehyde | 4.1 g, yield: 95% | C(#CCCCC)C=1C=C(C=O)C=CC1OC | C14H16O2
